US06313122B1
D. N-(6-Aminopyridin-2-yl)-2-[(4-tert-butylbenzoyl)amino]benzamide
To a stirred solution N-(6-phthalimidopyridin-2-yl)-2-[(4-tert-butylbenzoyl)amino]benzamide (230 mg, 0.44 mmol) in ethanol (15 mL) was added hydrazine hydrate (0.22 g, 4.4 mmol). After refluxing the mixture for 30 min, the solvent was removed in vacuo and the residue was dissolved in ethyl acetate, washed twice with saturated aqueous sodium bicarbonate solution, twice with saturated aqueous sodium chloride solution, dried (magnesium sulfate), filtered, and concentrated in vacuo. The residue was dissolved in a minimal amount of chloroform and chromatographed (silica gel, eluting with a gradient of chloroform to 2% methanol/−98% chloroform. The appropriate fractions were combined and concentrated In vacuo to give 51 mg (30%) of the title compound as a white solid.

reactant | N-(6-phthalimidopyridin-2-yl)-2-[(4-tert-butylbenzoyl)amino]benzamide | 0.44 mmol, 230 mg | C1(C=2C(C(N1C1=CC=CC(=N1)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O)=O)=CC=CC2)=O | C31H26N4O4
reactant | hydrazine hydrate | 4.4 mmol, 0.22 g | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-(6-Aminopyridin-2-yl)-2-[(4-tert-butylbenzoyl)amino]benzamide | 51 mg, 30% | NC1=CC=CC(=N1)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)=O | C23H24N4O2
